US07820659B2
(Siegfried Schwarz and Walter Schunack; Arch. Pharm. vol 312, pp 933-939, year 1979). Dissolve 4,5,6,7-Tetrahydro-1H-benzoimidazol-5-ylamine dihydrochloride salt (42 g, 200 mmol) (Preparation 8) into 350 ml H2O. Add to this solution sodium bicarbonate (50 g, 600 mmol) portion wise until bubbling ceases. Heating to 60° C. may be needed for complete quenching of the salt. The final pH is 10. Concentrate this aqueous mixture and dry on a vacuum pump overnight. Add warm ethanol (400 ml) and stir to break up the salt solids and filter. Repeat the extraction again. Mechanical stirring or stirring overnight may be needed to break up all the solids sufficiently. Concentrate the ethanol extractions to 800 ml and add 400 ml H2O and dibenzyl-D-tartaric acid (75 g, 210 mmol). Solids form within 10-15 min. Allow this mixture to stir overnight. Filter solids to give 4,5,6,7-Tetrahydro-3H-benzoimidazol-5-ylamine dibenzoyl-D-tartrate which is re-crystallized by dissolving the material in methanol (350 mL) by heating at 50-60° C. in a conical flask by continuous stirring. Add additional methanol as need to dissolve all material. Add water (20 mL) while the mixture is hot. Cool the mixture down to room temp with stirring which results in separation of white solid suspension. Filter the solid and dry to give enriched amino cyclohexylimidazole dibenzyl-D-tartaric acid salt. Repeat the re-crystallization procedure an additional three times to give an enriched material. Yield=25.4 g, ee˜92%.

reactant | 4,5,6,7-Tetrahydro-1H-benzoimidazol-5-ylamine dihydrochloride salt | 200 mmol, 42 g | Cl.Cl.N1C=NC2=C1CCC(C2)N
reactant | sodium bicarbonate | 600 mmol, 50 g | C([O-])(O)=O.[Na+]
reactant | dibenzyl-D-tartaric acid | 210 mmol, 75 g | C(C1=CC=CC=C1)[C@@]([C@@](C(=O)O)(O)CC1=CC=CC=C1)(O)C(=O)O | C18H18O6
reactant | H2O | 400 ml | O | H2O
reactant | H2O | 350 ml | O | H2O
product | 4,5,6,7-Tetrahydro-3H-benzoimidazol-5-ylamine dibenzoyl-D-tartrate | C(C1=CC=CC=C1)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=CC=C1)=O)(O)C(=O)O.N1=CNC2=C1CCC(C2)N | InChI=1S/C18H14O8.C7H11N3/c19-13(11-7-3-1-4-8-11)17(25,15(21)22)18(26,16(23)24)14(20)12-9-5-2-6-10-12;8-5-1-2-6-7(3-5)10-4-9-6/h1-10,25-26H,(H,21,22)(H,23,24);4-5H,1-3,8H2,(H,9,10)/t17-,18-;/m1./s1
